US04387105
A solution of 4.89 g. of 2,4-dimethylphenylisocyanate in 100 ml. of hexane is added to a solution of 3.48 g. of di(n-butyl)amine in 150 ml. of hexane and the solution is stirred at room temperature for 2 hours and then evaporated. The residual solid is recrystallized from pentane to yield 1,1-di-(n-butyl)-3-(2,4-dimethylphenyl)urea, m.p. 48°-50° C.

reactant | 2,4-dimethylphenylisocyanate | CC1=C(C=CC(=C1)C)N=C=O | C9H9NO
reactant | di(n-butyl)amine | C(CCC)NCCCC | C8H19N
solvent | hexane | CCCCCC | C6H14
product | 1,1-di-(n-butyl)-3-(2,4-dimethylphenyl)urea | C(CCC)N(C(=O)NC1=C(C=C(C=C1)C)C)CCCC | C17H28N2O
